US03998954
A mixture of homophthalic acid (9.0 g., 0.05 mole) and methyoxyamine hydrochloride (4.25 g., 0.05 mole) in 125 ml. of xylene was refluxed for 90 minutes, with water collected in Dean Stark trap as it formed. The reaction mixture was cooled and concentrated by vacuum to one half its original volume, then diluted with ethylacetate, washed with water and dried over sodium sulfate. Recrystallization from isopropanol and ethanol, followed by drying at 100° C. for 4 hours yielded pale pink crystals of 2-methoxyisoquinoline-1,3 (2H, 4H)-dione, m.p. 113°-114° C.

reactant | homophthalic acid | 0.05 mole, 9.0 g | C(CC=1C(C(=O)O)=CC=CC1)(=O)O | C9H8O4
reactant | methyoxyamine hydrochloride | 0.05 mole, 4.25 g | Cl.CON
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 2-methoxyisoquinoline-1,3 (2H, 4H)-dione | CON1C(C2=CC=CC=C2CC1=O)=O | C10H9NO3
